* Copyright (c) 2016 Linear Technology Corporation.  All rights reserved.
* Author: Dan Eddleman
*
*SOAtherm PCB Thermal Model
***************************************************************

.subckt TopsideCopper Tcenter

*****PARAMETERS THAT SHOULD BE OVERRIDDEN BY PASSED VALUES*******
.param Area_Contact_mm2=100
.param Area_PCB_mm2=10000
.param Copper_Thickness_oz=1
.param PCB_FR4_Thickness_mm=1.5
.param lfm=0
*****************************************************************

.param Enable_Radiation=1

.param TambientRadiation={Tambient}
.param TambientConvection={Tambient}
 
.param Tambient=85
.param emissivity=0.8
.param hconv0=1.1625E-5

R0 N001 Tcenter {r0}
R1 N002 N001 {r1}
R2 N003 N002 {r2}
R3 N004 N003 {r3}
R4 N005 N004 {r4}
R5 N006 N005 {r5}
R6 N007 N006 {r6}
R7 N008 N007 {r7}
R8 N009 N008 {r8}
R9 Tedge N009 {r9}
C1 N001 0 {c1}
C2 N002 0 {c2}
C3 N003 0 {c3}
C4 N004 0 {c4}
C5 N005 0 {c5}
C6 N006 0 {c6}
C7 N007 0 {c7}
C8 N008 0 {c8}
C9 N009 0 {c9}
C10 Tedge 0 {c10}
C0 Tcenter 0 {c0}
V1 TambientConvection 0 {TambientConvection}
XXtopRad0 TambientRadiation N001 radiation params: Area_mm2=a10 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad1 TambientRadiation N002 radiation params: Area_mm2=a21 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad2 TambientRadiation N003 radiation params: Area_mm2=a32 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad3 TambientRadiation N004 radiation params: Area_mm2=a43 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad4 TambientRadiation N005 radiation params: Area_mm2=a54 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad5 TambientRadiation N006 radiation params: Area_mm2=a65 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad6 TambientRadiation N007 radiation params: Area_mm2=a76 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad7 TambientRadiation N008 radiation params: Area_mm2=a87 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad8 TambientRadiation N009 radiation params: Area_mm2=a98 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopRad9 TambientRadiation Tedge radiation params: Area_mm2=a109 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXtopConv0 TambientConvection N001 convection params: Area_mm2=a10 lfm={lfm} hconv0={hconv0}
XXtopConv1 TambientConvection N002 convection params: Area_mm2=a21 lfm={lfm} hconv0={hconv0}
XXtopConv2 TambientConvection N003 convection params: Area_mm2=a32 lfm={lfm} hconv0={hconv0}
XXtopConv3 TambientConvection N004 convection params: Area_mm2=a43 lfm={lfm} hconv0={hconv0}
XXtopConv4 TambientConvection N005 convection params: Area_mm2=a54 lfm={lfm} hconv0={hconv0}
XXtopConv5 TambientConvection N006 convection params: Area_mm2=a65 lfm={lfm} hconv0={hconv0}
XXtopConv6 TambientConvection N007 convection params: Area_mm2=a76 lfm={lfm} hconv0={hconv0}
XXtopConv7 TambientConvection N008 convection params: Area_mm2=a87 lfm={lfm} hconv0={hconv0}
XXtopConv8 TambientConvection N009 convection params: Area_mm2=a98 lfm={lfm} hconv0={hconv0}
XXtopConv9 TambientConvection Tedge convection params: Area_mm2=a109 lfm={lfm} hconv0={hconv0}
rFR4_0 N001 N010 {4k*PCB_FR4_Thickness_mm/a10}
rFR4_1 N002 N011 {4k*PCB_FR4_Thickness_mm/a21}
rFR4_2 N003 N012 {4k*PCB_FR4_Thickness_mm/a32}
rFR4_3 N004 N013 {4k*PCB_FR4_Thickness_mm/a43}
rFR4_4 N005 N014 {4k*PCB_FR4_Thickness_mm/a54}
rFR4_5 N006 N015 {4k*PCB_FR4_Thickness_mm/a65}
rFR4_6 N007 N016 {4k*PCB_FR4_Thickness_mm/a76}
rFR4_7 N008 N017 {4k*PCB_FR4_Thickness_mm/a10}
rFR4_8 N009 N018 {4k*PCB_FR4_Thickness_mm/a87}
rFR4_9 Tedge N019 {4k*PCB_FR4_Thickness_mm/a98}
XXbottomRad0 TambientRadiation N010 radiation params: Area_mm2=a10 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad1 TambientRadiation N011 radiation params: Area_mm2=a21 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad2 TambientRadiation N012 radiation params: Area_mm2=a32 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad3 TambientRadiation N013 radiation params: Area_mm2=a43 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad4 TambientRadiation N014 radiation params: Area_mm2=a54 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad5 TambientRadiation N015 radiation params: Area_mm2=a65 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad6 TambientRadiation N016 radiation params: Area_mm2=a76 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad7 TambientRadiation N017 radiation params: Area_mm2=a87 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad8 TambientRadiation N018 radiation params: Area_mm2=a98 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomRad9 TambientRadiation N019 radiation params: Area_mm2=a109 Enable_Radiation={Enable_Radiation} emissivity={emissivity}
XXbottomConv0 TambientConvection N010 convection params: Area_mm2=a10 lfm={lfm} hconv0={hconv0}
XXbottomConv1 TambientConvection N011 convection params: Area_mm2=a21 lfm={lfm} hconv0={hconv0}
XXbottomConv2 TambientConvection N012 convection params: Area_mm2=a32 lfm={lfm} hconv0={hconv0}
XXbottomConv3 TambientConvection N013 convection params: Area_mm2=a43 lfm={lfm} hconv0={hconv0}
XXbottomConv4 TambientConvection N014 convection params: Area_mm2=a54 lfm={lfm} hconv0={hconv0}
XXbottomConv5 TambientConvection N015 convection params: Area_mm2=a65 lfm={lfm} hconv0={hconv0}
XXbottomConv6 TambientConvection N016 convection params: Area_mm2=a76 lfm={lfm} hconv0={hconv0}
XXbottomConv7 TambientConvection N017 convection params: Area_mm2=a87 lfm={lfm} hconv0={hconv0}
XXbottomConv8 TambientConvection N018 convection params: Area_mm2=a98 lfm={lfm} hconv0={hconv0}
XXbottomConv9 TambientConvection N019 convection params: Area_mm2=a109 lfm={lfm} hconv0={hconv0}
V2 TambientRadiation 0 {TambientRadiation}
C11 N010 0 {c1_FR4}
C12 N011 0 {c2_FR4}
C13 N012 0 {c3_FR4}
C14 N013 0 {c4_FR4}
C15 N014 0 {c5_FR4}
C16 N015 0 {c6_FR4}
C17 N016 0 {c7_FR4}
C18 N017 0 {c8_FR4}
C19 N018 0 {c9_FR4}
C20 N019 0 {c10_FR4}

.param Rcopper_PCB_per_square=1/(0.391*0.035*Copper_Thickness_oz)
.param Ccopper_PCB_per_mm2=400*8.96E-6*0.035*Copper_Thickness_oz
.param Cfr4_PCB_per_mm2=600*2E-6*PCB_FR4_Thickness_mm
 
.param radius0=SQRT(Area_Contact_mm2/pi)
.param radius10=SQRT(Area_PCB_mm2/pi)
.param radius9=radius0+(radius10-radius0)/2
.param radius8=radius0+(radius9-radius0)/2
.param radius7=radius0+(radius8-radius0)/2
.param radius6=radius0+(radius7-radius0)/2
.param radius5=radius0+(radius6-radius0)/2
.param radius4=radius0+(radius5-radius0)/2
.param radius3=radius0+(radius4-radius0)/2
.param radius2=radius0+(radius3-radius0)/2
.param radius1=radius0+(radius2-radius0)/2
 
.func Area(radius_outer,radius_inner) {pi*pow(radius_outer,2)-pi*pow(radius_inner,2)}
.param a0=Area(radius0,0)
.param a10=Area(radius1,radius0)
.param a21=Area(radius2,radius1)
.param a32=Area(radius3,radius2)
.param a43=Area(radius4,radius3)
.param a54=Area(radius5,radius4)
.param a65=Area(radius6,radius5)
.param a76=Area(radius7,radius6)
.param a87=Area(radius8,radius7)
.param a98=Area(radius9,radius8)
.param a109=Area(radius10,radius9)
 
.param c0=Ccopper_PCB_per_mm2*a0
.param c1=Ccopper_PCB_per_mm2*a10
.param c2=Ccopper_PCB_per_mm2*a21
.param c3=Ccopper_PCB_per_mm2*a32
.param c4=Ccopper_PCB_per_mm2*a43
.param c5=Ccopper_PCB_per_mm2*a54
.param c6=Ccopper_PCB_per_mm2*a65
.param c7=Ccopper_PCB_per_mm2*a76
.param c8=Ccopper_PCB_per_mm2*a87
.param c9=Ccopper_PCB_per_mm2*a98
.param c10=Ccopper_PCB_per_mm2*a109
 
.param c1_FR4=Cfr4_PCB_per_mm2*a10
.param c2_FR4=Cfr4_PCB_per_mm2*a21
.param c3_FR4=Cfr4_PCB_per_mm2*a32
.param c4_FR4=Cfr4_PCB_per_mm2*a43
.param c5_FR4=Cfr4_PCB_per_mm2*a54
.param c6_FR4=Cfr4_PCB_per_mm2*a65
.param c7_FR4=Cfr4_PCB_per_mm2*a76
.param c8_FR4=Cfr4_PCB_per_mm2*a87
.param c9_FR4=Cfr4_PCB_per_mm2*a98
.param c10_FR4=Cfr4_PCB_per_mm2*a109
 
.func Squares(radius_outer,radius_inner) {(radius_outer-radius_inner)/(2*pi*(radius_outer+radius_inner)/2)}
.param r0=Squares(radius1,radius0)*Rcopper_PCB_per_square
.param r1=Squares(radius2,radius1)*Rcopper_PCB_per_square
.param r2=Squares(radius3,radius2)*Rcopper_PCB_per_square
.param r3=Squares(radius4,radius3)*Rcopper_PCB_per_square
.param r4=Squares(radius5,radius4)*Rcopper_PCB_per_square
.param r5=Squares(radius6,radius5)*Rcopper_PCB_per_square
.param r6=Squares(radius7,radius6)*Rcopper_PCB_per_square
.param r7=Squares(radius8,radius7)*Rcopper_PCB_per_square
.param r8=Squares(radius9,radius8)*Rcopper_PCB_per_square
.param r9=Squares(radius10,radius9)*Rcopper_PCB_per_square

.ends TopsideCopper

* block symbol definitions

.subckt radiation Tamb_C Tsurf_C
B1 Tsurf_C Tamb_C I=IF(Enable_Radiation>0,emissivity*sigma_mm2*{Area_mm2}*(Pow(V(Tsurf_C)+273,4)-Pow(V(Tamb_C)+273,4)),0)
.param emissivity=0.8
.param sigma_mm2=5.6703E-14
.param Enable_Radiation=1
.ends radiation


.subckt convection Tamb_C Tsurf_C
Rair Tsurf_C Tamb_C {1/(hconv*Area_mm2)}
.param LFM=0
.param PCB_FR4_Thickness_mm=1.5
.param hconv0=1.1625e-5
.param hconv={hconv0*(1+0.013*POW(LFM,0.8))}
.ends convection




